US08835626B2
1st step: methyl 2-(9H-carbazol-1-ylamino)benzoate
35.51 g (234.9 mmol) of methyl anthranilate are dissolved in 500 ml of toluene and degassed well. 52 g (213 mmol) of 1-bromocarbazole, 2.1 g (10.7 mmol) of 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene, 1.19 g (5.34 mmol) of Pd(OAc)2 and 76.5 g (234.9 mmol) of Cs2CO3 are added, and the mixture is then degassed and stirred at 100° C. under a protective-gas atmosphere for 24 h. The solids are subsequently filtered off via Celite, and the organic phase is washed with water, dried over MgSO4 and evaporated. The crude product is washed by stirring with hot heptane, giving 57.4 g (108 mmol), 86% of theory, purity according to HPLC 86%.

reactant | methyl anthranilate | 234.9 mmol, 35.51 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | 1-bromocarbazole | 213 mmol, 52 g | BrC1=CC=CC=2C3=CC=CC=C3NC12 | C12H8BrN
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 10.7 mmol, 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | Cs2CO3 | 234.9 mmol, 76.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 5.34 mmol, 1.19 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 2-(9H-carbazol-1-ylamino)benzoate | C1(=CC=CC=2C3=CC=CC=C3NC12)NC1=C(C(=O)OC)C=CC=C1 | C20H16N2O2
